US06177419B1
6-(2-Hydroxyphenyl)-6′-(2-hydroxy-3-methoxyphenyl)-2,2′-bipyridine was prepared from 6-bromo-6′-(2-hydroxy-3-methoxyphenyl)-2,2′-bipyridine and 2-hydroxyphenyl boronic acid in 39% yield using method F; δH [2H6]-DMSO 13.48,(1H, b), 13.38,(1H, b), 8.33,(2H, m), 8.23, (2H, t), 8.17,(2H, d), 8.13,(1H, d), 7.70,(2H, d), 7.37,(1H, t), 7.09,(1H, d), 7.02,(1H, d), 6.94,(1H, t), 3.84,(3H, s); MS 371 (MH)+; HPLC retention time (system 1) 4.03 minutes.

reactant | 6-bromo-6′-(2-hydroxy-3-methoxyphenyl)-2,2′-bipyridine | BrC1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C(=CC=C1)OC)O | C17H13BrN2O2
reactant | 2-hydroxyphenyl boronic acid | OC1=C(C=CC=C1)B(O)O | C6H7BO3
product | 6-(2-Hydroxyphenyl)-6′-(2-hydroxy-3-methoxyphenyl)-2,2′-bipyridine | 39% yield | OC1=C(C=CC=C1)C1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C(=CC=C1)OC)O | C23H18N2O3
